US09416105B2
Preparation of (1S,3S,5S)-2-[(2S)-2-tritylamino-2-(3-hydroxyadamantan-1-yl)acetyl]-2-azabicyclo[3.1.0]hexane-3-carboxamide
Tert-butoxycarbonylamino-(3-hydroxy-adamantan-1-yl)-acetic acid (100 g; 0.307 mole) was added to dichloromethane (500 ml) with stirring. The methanesulfonic acid salt of (1S,3S,5S)-2-azabicyclo[3.1.0]hexane-3-carboxamide (64.8 g; 0.292 mole) was added, and the reaction mixture was stirred for 15 minutes at 25-35° C. In a separate flask, 1-hydroxybenzotriazole monohydrate (11.8 g; 0.077 mole) and triethylamine (34.2 g) were added to dichloromethane (500 ml) and stirred to form a solution. This solution was added to the reaction mixture gradually over 30 minutes at 25-30° C. The reaction mixture was then cooled to 5-15° C., 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC.HCl) (70.6 g) was added, and the mixture was stirred for 15 minutes at 5-15° C. Triethylamine (65.2 g) was added to the reaction mixture and stirred for 30 minutes. Temperature of the reaction mixture was raised to 25-35° C. and stirred continuously for 12 hours. Reaction completion was confirmed by HPLC. Water (500 ml) was added, the mixture was stirred, and the organic layer was separated. The organic layer was washed with dilute hydrochloric acid solution (500 ml, prepared by adding concentrated hydrochloric acid (60 ml) to water (440 ml)), and further washed with sodium bicarbonate solution (3 times), followed by washing with sodium chloride solution. Hydrogen chloride in isopropanol (14.2% w/w, 315.6 g) was added over 60 minutes, and the mixture was stirred for 4 hours. Completion of the reaction was confirmed by HPLC. The mixture was distilled under vacuum to remove dichloromethane. Toluene was added to the residue and distilled under vacuum. Acetonitrile (400 ml) was added to the residue followed by addition of triethylamine (79.2 g) over 15 minutes with stirring. The reaction mixture was cooled to 10-20° C., and trityl chloride (72.7 g) was added gradually, followed by stirring for 2 hours. Completion of the reaction was confirmed by HPLC. The mixture was distilled under vacuum to remove acetonitrile. Toluene was added to the residue and distilled under vacuum. Toluene (500 ml) followed by water (500 ml) were added to the residue, the mixture was heated at 45-55° C. and filtered and dried to obtain the product. (Yield=60.3%; HPLC purity=94%)

reactant | Tert-butoxycarbonylamino-(3-hydroxy-adamantan-1-yl)-acetic acid | 0.307 mole, 100 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C12CC3(CC(CC(C1)C3)C2)O | C17H27NO5
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | (1S,3S,5S)-2-azabicyclo[3.1.0]hexane-3-carboxamide | 0.292 mole, 64.8 g | [C@H]12N[C@@H](C[C@@H]2C1)C(=O)N | C6H10N2O
reactant | 1-hydroxybenzotriazole monohydrate | 0.077 mole, 11.8 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 70.6 g | Cl.C(C)N=C=NCCCN(C)C
solvent | Water | 500 ml | O | H2O
solvent | Triethylamine | 65.2 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | triethylamine | 34.2 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | (1S,3S,5S)-2-[(2S)-2-tritylamino-2-(3-hydroxyadamantan-1-yl)acetyl]-2-azabicyclo[3.1.0]hexane-3-carboxamide | Yield=60.3% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@H](C(=O)N1[C@H]2C[C@H]2C[C@H]1C(=O)N)C12CC3(CC(CC(C1)C3)C2)O | C37H41N3O3
